US05105017
N,N-dimethyl-3-methoxy-2-propylbenzylamine
Under an argon atmosphere, 420 ml. of a 1.6M solution of n-butyllithium in hexane were slowly added to a solution of 105.6 g. of N,N-dimethyl-3-methoxybenzylamine in 1000 ml. of tetrahydrofuran by means of an addition funnel, keeping the temperature below 0° C. with an external ice/ethanol bath. After the addition was completed, the reaction was stirred at 0° C. for four hours. At this time, 68.3 ml. of 1-iodopropane were added dropwise to the solution keeping the temperature below 10° C. The reaction was stirred for one hour. The cooling bath was removed and the reaction was stirred an additional two hours. The reaction was then heated to reflux for about 16 hours. The reaction solution was concentrated in vacuo and the residue was taken up in diethyl ether. The ether solution was first washed with an aqueous sodium hydroxide solution and then with water. The ether layer was dried over sodium sulfate and the solvent was removed in vacuo. The residue was vacuum distilled at 3 torr. The fraction collected between 105 and 115° C. provided 104.3 g. of the desired title intermediate. NMR, IR.

reactant | n-butyllithium | C(CCC)[Li]
reactant | N,N-dimethyl-3-methoxybenzylamine | CN(C)CC1=CC(=CC=C1)OC | C10H15NO
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | 1-iodopropane | ICCC | C3H7I
solvent | hexane | CCCCCC | C6H14
product | N,N-dimethyl-3-methoxy-2-propylbenzylamine | CN(C)CC1=C(C(=CC=C1)OC)CCC | C13H21NO
